US07910611B2
In the same manner as that in Step 2 of Reference Example 20, from another diastereomer of N-[4-acetyl-5-(2-methanesulfonylaminoethyl)-5-phenyl-4,5-dihydro-1,3,4-thiadiazol-2-yl]-2-phenylpropanamide (0.632 g, 1.33 mmol) eluted later obtained in Step 3 mentioned above, cerium chloride heptahydrate (0.496 g, 1.33 mmol) and sodium borohydride (0.503 g, 13.3 mmol), optically active N-[2-(3-acetyl-5-amino-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)ethyl]methanesulfonamide (232 mg, 51%) was obtained.

reactant | N-[4-acetyl-5-(2-methanesulfonylaminoethyl)-5-phenyl-4,5-dihydro-1,3,4-thiadiazol-2-yl]-2-phenylpropanamide | 1.33 mmol, 0.632 g | C(C)(=O)N1N=C(SC1(C1=CC=CC=C1)CCNS(=O)(=O)C)NC(C(C)C1=CC=CC=C1)=O | C22H26N4O4S2
reactant | cerium chloride heptahydrate | 1.33 mmol, 0.496 g | O.O.O.O.O.O.O.[Cl-].[Ce+3].[Cl-].[Cl-]
reactant | sodium borohydride | 13.3 mmol, 0.503 g | [BH4-].[Na+]
product | N-[2-(3-acetyl-5-amino-2-phenyl-2,3-dihydro-1,3,4-thiadiazol-2-yl)ethyl]methanesulfonamide | 232 mg, 51% | C(C)(=O)N1C(SC(=N1)N)(C1=CC=CC=C1)CCNS(=O)(=O)C | C13H18N4O3S2
